US06579884B1
Synthesis of 2-(((2,3-dimethylimidazo[1,2-a]pyridine-8-yl)amino)methyl)-3-methylphenyl methyl carbonate hydrochloride
A mixture of 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (0.068 g, 0.24 mmol) sodium carbonate (0.12 g, 1.1 mmol), and potassium hydroxide (0.019 g, 0.34 mmol) in acetone (12 ml) was stirred for 15 min in room temperature in a nitrogen atmosphere. Methyl chloroformate (0.023 g, 0.24 mmol) was added and the reaction mixture was stirred for 70 min. Methylene chloride was added and the mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was dissolved in methylene chloride, washed with saturated sodium bicarbonate and water and the organic layer was separated, dried and evaporated under reduced pressure. The residue was purified by by column chromatography on silica gel using methylene chloride:methanol (100:5) as eluent and treated with HCl/diethyl ether to give 0.025 g (28%) of the title compound.

reactant | 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 0.24 mmol, 0.068 g | OC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H19N3O
reactant | potassium hydroxide | 0.34 mmol, 0.019 g | [OH-].[K+]
reactant | Methyl chloroformate | 0.24 mmol, 0.023 g | ClC(=O)OC | C2H3ClO2
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 2-(((2,3-dimethylimidazo[1,2-a]pyridine-8-yl)amino)methyl)-3-methylphenyl methyl carbonate hydrochloride | 0.025 g, 28% | Cl.C(OC1=C(C(=CC=C1)C)CNC=1C=2N(C=CC1)C(=C(N2)C)C)(OC)=O | InChI=1S/C19H21N3O3.ClH/c1-12-7-5-9-17(25-19(23)24-4)15(12)11-20-16-8-6-10-22-14(3)13(2)21-18(16)22;/h5-10,20H,11H2,1-4H3;1H
